US08530663B2
3-Bromopyridine-2-carboxylic acid methyl ester (4.0 g, 18.6 mmol, 1.0 eq.) was combined with a solution of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (5.8 g, 18.6 mmol, 1.0 eq.) in THF (100 mL), under nitrogen. A solution of Na2CO3 (7.9 g, 74.5 mmol, 4.0 eq.) in water (37 mL) was added, followed by the addition of PdCl2(PPh3)2 (650 mg, 930 μmol, 0.05 eq.). The resulting solution was stirred for 14 hours while the temperature was maintained at reflux in an oil bath. The resulting solution was diluted with EtOAc (100 mL), then washed with saturated aqueous NaCl (2×100 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:20) to yield 3′,6′-dihydro-2′H-[3,4]bipyridinyl-2,1′-dicarboxylic acid 1′-t-butyl ester 2-methyl ester (3.8 g) as colorless oil.

reactant | 3-Bromopyridine-2-carboxylic acid methyl ester | 18.6 mmol, 4.0 g, 1.0 eq. | COC(=O)C1=NC=CC=C1Br | C7H6BrNO2
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 18.6 mmol, 5.8 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | Na2CO3 | 74.5 mmol, 7.9 g, 4.0 eq. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 37 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 930 μmol, 650 mg, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3′,6′-dihydro-2′H-[3,4]bipyridinyl-2,1′-dicarboxylic acid 1′-t-butyl ester 2-methyl ester | 3.8 g | COC(=O)C1=NC=CC=C1C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O4
